US05506261
To a solution of 2-iodo-5-(4-fluorophenylmethyl)thiophene (5.30 g, 16.6 mmol), prepared as in step 2, in anhydrous DMF (5.0 mL) was added (R)-N-hydroxy-N-(3-butyn-2-yl)urea (2.12 g, 16.6 mmol), triphenylphosphine (84 mg, 0.32 mmol), bis(acetonitrile)palladium(II) chloride (40 mg, 0.16 mmol), copper (I) iodide (16 rag, 0.08 mmol), and diethylamine (5.6 ml). The mixture was stirred under nitrogen at ambient temperature for 22 hours and concentrated in vacuo at 32° C. The residue was subjected to chromatography on silica eluting with 2-7% MeOH in CH2Cl2, crystallization from ethyl acetate-hexane and trituration in CH2Cl2 to afford (R)-N-{3-[5-(4-fluorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea as a cream-colored solid 0.94 g (18%). m.p. 135°-136° C.(dec). 1H NMR (DMSO-d6, 300 MHz) δ1.32 (d, J=6.0 Hz, 3H), 4.11 (s, 2H), 5.10 (q, J=6.0Hz, 1H), 6.54 (s, 2H), 6.81 (d, J=3.0Hz, 1H), 7.08 (d, J=3.0Hz, 1H), 7.10-7.18 (m, 2H), 7.25-7.32 (m, 2H), 9.33 (s, 1H). MS (DCI/NH3) m/e 319 (M+H)+. [a]D23° =+47.8° (C=1, MeOH). Anal calcd for C16H15FN2O2S: C, 60.36; H, 4.75; N, 8.80. Found: C, 60.31; H, 4.79; N, 8.50.

reactant | 2-iodo-5-(4-fluorophenylmethyl)thiophene | 16.6 mmol, 5.30 g | IC=1SC(=CC1)CC1=CC=C(C=C1)F | C11H8FIS
reactant | (R)-N-hydroxy-N-(3-butyn-2-yl)urea | 16.6 mmol, 2.12 g | ON(C(=O)N)[C@H](C)C#C | C5H8N2O2
reactant | triphenylphosphine | 0.32 mmol, 84 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 5.6 ml | C(C)NCC | C4H11N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
catalyst | bis(acetonitrile)palladium(II) chloride | 0.16 mmol, 40 mg | CC#N.CC#N.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.08 mmol | [Cu]I
product | (R)-N-{3-[5-(4-fluorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea | 0.94 g, 18% | FC1=CC=C(C=C1)CC1=CC=C(S1)C#C[C@@H](C)N(C(=O)N)O | C16H15FN2O2S
